* source PFE
L_L26         N00849 N00228  1nH  
L_L27         N00856 N00235  1nH  
L_L28         N00861 N00242  1nH  
L_L29         N00868 N00249  1nH  
R_R71         N00235 N00228  93.1 TC=0,0 
R_R73         N00249 N00242  93.1 TC=0,0 
C_C953         N00856 N00849  1p  TC=0,0 
C_C955         N00868 N00861  1p  TC=0,0 
C_C853         N00228 0  100pF  TC=0,0 
C_C854         N00235 0  100pF  TC=0,0 
C_C856         N00249 0  100pF  TC=0,0 
C_C855         N00242 0  100pF  TC=0,0 
R_R74         0 N01385  93.1 TC=0,0 
R_R75         0 N01389  93.1 TC=0,0 
R_R76         0 N01605  93.1 TC=0,0 
R_R77         0 N01901  93.1 TC=0,0 
R_R78         N01605 N01901  93.1 TC=0,0 
R_R79         N01385 N01389  93.1 TC=0,0 
L_L12         0 N00856  10nH  
L_L11         N01385 N00849  10nH  
Kn_K1         L_L11 L_L12     1 Kbreak
L_L21         N01605 N00861  10nH  
L_L22         0 N00868  10nH  
Kn_K2         L_L21 L_L22     1 Kbreak
V_V1         N02047 0 DC 3Vdc AC 1Vac 
V_V2         N03264 0 DC 3Vdc AC 1Vac 
C_C857         N02047 N01389  100p  TC=0,0 
C_C858         N03264 N01901  100pF  TC=0,0 
